US08222219B2
To a solution of 2-ethylbenzoic acid (10.0 g) in dichloromethane (50 ml) were added oxalyl chloride (7.0 ml) and N,N-dimethylformamide (3 drops) and the mixture was stirred at room temperature for 3 hours. The solvent was evaporated under reduced pressure to give a corresponding acid chloride. The acid chloride was dissolved in methanol (60 ml) and the mixture was stirred at room temperature for 3 hours, and then, the solvent was evaporated under reduced pressure. The residue was dissolved in diethyl ether, and washed successively with a saturated aqueous sodium hydrogen carbonate solution and brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure to give methyl 2-ethylbenzoate, which was used in the subsequent step without further purification. (2) The above methyl 2-ethylbenzoate was mixed with molecular sieve 13× (powder, 70 g), and while stirring the mixture, bromine (5.2 ml) was added dropwise thereto at 80° C. The mixture was further stirred at the same temperature for 1.5 hours. The mixture was cooled to room temperature, and added thereto were potassium carbonate (7.4 g), water (70 ml) and methanol (350 ml), and the mixture was stirred for 8 hours. Insoluble materials were filtered off, and suspended in a mixed solution of methanol (500 ml)—water (500 ml), and the mixture was stirred at room temperature overnight. Insoluble materials were filtered off and the filtrate was combined with the previously obtained filtrate, and the solvent was evaporated under reduced pressure. The residue was extracted with ethyl acetate, and the extract was washed with brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was distilled under reduced pressure, to give methyl 5-bromo-2-ethylbenzoate (2.44 g). APCI-Mass m/Z 260/262 (M+NH4). (3) The above methyl 5-bromo-2-ethylbenzoate was treated in a manner similar to Reference Example 4-(1) and (2) to give N-methoxy-N-methyl-5-bromo-2-ethylbenzamide as colorless oil. APCI-Mass m/Z 272/274 (M+H). (4) The above N-methoxy-N-methyl-5-bromo-2-ethylbenzamide and thianaphthene were treated in a manner similar to Reference Example 45 to give 1-(Benzo[b]thiophen-2-ylmethyl)-5-bromo-2-ethylbenzene as oil.

reactant | N-methoxy-N-methyl-5-bromo-2-ethylbenzamide | CON(C(C1=C(C=CC(=C1)Br)CC)=O)C | C11H14BrNO2
reactant | thianaphthene | C=1C=CC2=C(C1)C=CS2 | C8H6S
product | 1-(Benzo[b]thiophen-2-ylmethyl)-5-bromo-2-ethylbenzene | S1C2=C(C=C1CC1=C(C=CC(=C1)Br)CC)C=CC=C2 | C17H15BrS
